US08236835B2
To a solution of pyrrolidin-2-one (1.00 g, 12.0 mmol) in anhydrous toluene (20 mL) was added trifluoroacetic anhydride (2.30 mL, 16.0 mmol) dropwise at 0° C. The reaction mixture was stirred at ambient temperature for 1 hour and concentrated in vacuo. The residue was evaporated in vacuo with anhydrous toluene (3×20 mL) to afford 1-(2,2,2-trifluoroacetyl)pyrrolidin-2-one as a clear oil (2.12 g, 99%): 1H NMR (300 MHz, CDCl3) δ 3.85 (t, J=7.2 Hz, 2H), 2.61 (t, J=8.1 Hz, 2H), 2.22-2.04 (m, 2H).

reactant | pyrrolidin-2-one | 12.0 mmol, 1.00 g | N1C(CCC1)=O | C4H7NO
reactant | trifluoroacetic anhydride | 16.0 mmol, 2.30 mL | FC(C(=O)OC(C(F)(F)F)=O)(F)F | C4F6O3
solvent | toluene | 20 mL | C1(=CC=CC=C1)C | C7H8
product | 1-(2,2,2-trifluoroacetyl)pyrrolidin-2-one | 2.12 g, 99% | FC(C(=O)N1C(CCC1)=O)(F)F | C6H6F3NO2
